US05061706
To a mixture of 1.0 g (4.0 mmol) 4-ethoxalylaminobenzonitril in 4 ml glacial acetic acid was added 4 ml acetic anhydride. At 0° C. a solution of 1 ml 100% nitric acid in 2 ml glacial acetic acid was added dropwise, and after 15 min. further 1 ml 100% nitric acid was added. Stirring was continued at 0° C. for 1 h. The reaction mixture was poured into 50 ml ice-water to give 0.95 g (81%) of 4-ethoxalylamino-3-nitrobenzonitril. M.p. 151.8° C.

reactant | 4-ethoxalylaminobenzonitril | 4.0 mmol, 1.0 g | C(=O)(C(=O)OCC)NC1=CC=C(C#N)C=C1 | C11H10N2O3
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4-ethoxalylamino-3-nitrobenzonitril | 0.95 g, 81% | C(=O)(C(=O)OCC)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C11H9N3O5
